* Input
V1 IN 0 PULSE(0 5 0 1u 1u 5m 10m)

* Supply
VDD VDD 0 5

* CMOS Inverter
M1 INV_OUT IN VDD VDD PMOS
M2 INV_OUT IN 0 0 NMOS

.model NMOS NMOS (VTO=1 KP=120u)
.model PMOS PMOS (VTO=-1 KP=50u)

* RS232 Equivalent
B1 RS232 0 V={IF(V(INV_OUT)>2.5,-10,10)}

* Scaled voltage (safe)
E1 SCALED 0 VALUE = { V(RS232)*0.33 }

* --- STABILIZED PUSH-PULL STAGE ---

* Base resistors (CRITICAL)
RB1 SCALED B1 1k
RB2 SCALED B2 1k

* Transistors
Q1 OUT B1 RS232 NPN
Q2 OUT B2 0 PNP

.model NPN NPN (BF=100)
.model PNP PNP (BF=100)

* Emitter resistors (VERY IMPORTANT)
RE1 OUT RS232 1
RE2 OUT 0 1

* Load (~30mA)
RL OUT 0 110

* Small cap for convergence (optional but helps)
C1 OUT 0 10p

.tran 0 50m startup
.options reltol=1e-3 abstol=1e-6 vntol=1e-6
.end
